US05506256
B) (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-{[(S)-p-tolylsulfinyl]acetyl}pyrrolidine
(2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-{1-hydroxy-2-[(S)-p-tolylsulfinyl]ethyl}pyrrolidine (357 mg) was subjected to DMSO-DCC oxidation as in Example 1-D), and the reaction product was purified by medium pressure liquid chromatography (silica gel, eluate; chloroform:methanol=99:1) to give 162 mg of the title compound (See Table 4).

reactant | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-{1-hydroxy-2-[(S)-p-tolylsulfinyl]ethyl}pyrrolidine | 357 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(C[S@](=O)C2=CC=C(C=C2)C)O)CCC1 | C26H32N2O5S
reactant | DMSO DCC | CS(=O)C.C1CCC(CC1)N=C=NC2CCCCC2
product | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-{[(S)-p-tolylsulfinyl]acetyl}pyrrolidine | 162 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(C[S@](=O)C2=CC=C(C=C2)C)=O)CCC1 | C26H30N2O5S
